US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-2-phenoxyacetamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (30 mg, 66 μmol) was dissolved in abs. pyridine (1.5 ml). At room temperature, phenoxyacetyl chloride (21 mg, 197 μmol, 3 eq.) was added. After 12 h, analysis of the reaction by HPLC showed substantial conversion. The reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Kromasil C18 column, 5 μm, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (20.9 mg, 56% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 66 μmol, 30 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | phenoxyacetyl chloride | 197 μmol, 21 mg, 3 eq. | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}-2-phenoxyacetamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(COC2=CC=CC=C2)=O)C2=CC(=CC=C2)C(F)(F)F)C | C29H20F3N7O2
